US09303033B2
A (1:1) mixture of (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione and (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione (1.0 eq, 25 mg, 0.0704 mmol) was combined in a vial with 3-chlorophenol (5.0 eq, 45 mg, 0.35 mmol) and K2CO3 (5.0 eq, 48 mg, 0.347 mmol) in NMP (0.2 ml). The mixture was stirred at 90° C. for 1 hour. Water was added and the resulting solid was filtered and dried. Trituration in a mixture of ethyl acetate and hexanes followed by filtration provided (Z)-5-((2-(3-chlorophenoxy)-4-(cyclopropylamino)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione as a tan solid (20 mg, 69%). LCMS (ES): >95% pure, m/z 412 [M+H]+.

reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)(=O)C | C13H13N7O4S
reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | 0.0704 mmol, 25 mg, 1.0 eq | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)C | C13H13N7O3S
reactant | 3-chlorophenol | 0.35 mmol, 45 mg, 5.0 eq | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | K2CO3 | 0.347 mmol, 48 mg, 5.0 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 0.2 ml | CN1CCCC1=O | C5H9NO
solvent | Water | O | H2O
product | (Z)-5-((2-(3-chlorophenoxy)-4-(cyclopropylamino)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | 20 mg, 69% | ClC=1C=C(OC2=NC=3N(C(=N2)NC2CC2)N=CC3\C=C/3\C(NC(N3)=O)=O)C=CC1 | C18H14ClN7O3
